US06809199B2
A mixture of 1-bromomethyl-2,6-dibromo-4-nitrobenzene (4.45 g, 1 eq.) and CaCO3 (5.7 g, 5 eq.) in 1,4-dioxane (20 mL) and water (20 mL) was heated to and maintained at reflux overnight. The mixture was cooled, poured into water and extracted with ethyl acetate. The organic layer was washed with brine, dried over anhydrousmgSO4, filtered and concentrated. The product was purified by silica gel chromatography (eluted with 4:1 hexanes:ethyl acetate) to give 1-Hydroxymethyl-2,6-dibromo-4-nitrobenzene. 1H NMR (500 MHz, CDCl3) δ CHCl3: 2.28 (1H, broad t), 5.05(2H, m), 8.397(2H, s).

reactant | 1-bromomethyl-2,6-dibromo-4-nitrobenzene | 4.45 g, 1 eq. | BrCC1=C(C=C(C=C1Br)[N+](=O)[O-])Br | C7H4Br3NO2
reactant | CaCO3 | 5.7 g, 5 eq. | C(=O)([O-])[O-].[Ca+2]
solvent | 1,4-dioxane | 20 mL | O1CCOCC1 | C4H8O2
solvent | water | 20 mL | O | H2O
product | 1-Hydroxymethyl-2,6-dibromo-4-nitrobenzene | OCC1=C(C=C(C=C1Br)[N+](=O)[O-])Br | C7H5Br2NO3
